US06281227B1
A. 2-Iodo-3-nitro-pyridine
To a solution of 2-amino-3-nitro-pyridine (8 g, 57.5 mmol) in 60 mL of 6 N HCl cooled to 0° C. is added dropwise a solution of sodium nitrite (6.35 g, 92 mmol) in 40 mL of water. The mixture is stirred at 0° C. for 1.5 hours. Then a solution of potassium iodide (22.9 g, 138 mmol) in 40 mL of water is added dropwise to the yellow solution. The resulting red mixture is stirred at 0° C. for 30 minutes and then heated at 60° C. for 45 minutes. After cooling, the mixture is made basic by the careful addition of 3 N NaOH. The aqueous layer is extracted with CH2Cl2 (4×) and the combined organic layers are washed with 1 N HCl, dilute Na2SO3 and water. The organic layer is dried over MgSO4, filtered and concentrated in vacuo. The crude product (2.72 g, 10.9 mmol) is used in the subsequent step without further purification.

reactant | 2-amino-3-nitro-pyridine | 57.5 mmol, 8 g | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
reactant | sodium nitrite | 92 mmol, 6.35 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 138 mmol, 22.9 g | [I-].[K+]
reactant | NaOH | 3 N | [OH-].[Na+]
solvent | HCl | 6 N, 60 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 2-Iodo-3-nitro-pyridine | IC1=NC=CC=C1[N+](=O)[O-] | C5H3IN2O2
